US06803372B2
(4) Preparation of 3-Amino-1-(4-benzyloxy-2-fluorophenyl)-pyrazoline
NaOMe (25 wt. % solution in MeOH, 7.75 mL) and acrylonitrile (2.1 mL) were added to a solution of 4-benzyloxy-2-fluorophenylhydrazine hydrochloride (4.15 g) in MeOH (40 mL) at room temperature. The mixture was stirred at room temperature for 30 minutes and refluxed overnight. Additional NaOMe (25 wt. % solution in MeOH, 3.9 mL) and acrylonitrile (1.05 ml) were added to the reaction mixture and refluxed for 7.5 hours. The mixture was diluted with EtOAc and washed with sat. NaHCO3 and brine. The organic layer was dried over anhydrous MgSO4 and concentrated. The residue was crystallized from CHCl3/hexane to yield 3.86 g of the title compound.

reactant | NaOMe | 7.75 mL | C[O-].[Na+]
reactant | acrylonitrile | 2.1 mL | C(C=C)#N | C3H3N
reactant | 4-benzyloxy-2-fluorophenylhydrazine hydrochloride | 4.15 g | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NN)F
reactant | NaOMe | 3.9 mL | C[O-].[Na+]
reactant | acrylonitrile | 1.05 ml | C(C=C)#N | C3H3N
solvent | MeOH | 40 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Amino-1-(4-benzyloxy-2-fluorophenyl)-pyrazoline | 3.86 g | NC=1NN(CC1)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C16H16FN3O
